US04652676
A. 1-(3-Amino-trans-1-butenyl)-2,5,5-trimethylcyclopentene
A solution of β-ionone (10.0 g., 52 mmol), ammonium acetate (40.0 g., 520 mmol) and sodium cyanoborohydride (3.27 g., 52 mmol) in methanol (150 ml) is stirred at room temperature for 3 days. The mixture is then made acidic to a pH less than 2 with concentrated hydrochloric acid, and most of the solvent is evaporated under vacuum. Water (150 ml) is added and the solution is washed with two 50 ml portions of ether. The aqueous solution is then made basic to pH greater than 10 with solid sodium hydroxide. The mixture is extracted with two 50 ml portions of ether, and the combined extracts washed with saturated sodium chloride solution, dried over magnesium sulfate, and the solvent is evaporated to yield a colorless oil (2.3 g.). The product is isolated by HPLC on a bonded C18 reverse phase column using methanol as the eluent to yield approximately 1 g. of a colorless oil.

reactant | β-ionone | 52 mmol, 10.0 g | CC1=C(C(CCC1)(C)C)/C=C/C(=O)C | C13H20O
reactant | ammonium acetate | 520 mmol, 40.0 g | C(C)(=O)[O-].[NH4+]
reactant | sodium cyanoborohydride | 52 mmol, 3.27 g | C(#N)[BH3-].[Na+]
solvent | methanol | 150 ml | CO | CH4O
product | 1-(3-Amino-trans-1-butenyl)-2,5,5-trimethylcyclopentene | NC(/C=C/C1=C(CCC1(C)C)C)C | C12H21N
